US04948796
4.46 g of 7-methyl-10,11-dihydro-5H-benzo-[4,5]cyclohepta[1,2-b]pyridin-5-one was dissolved in 22 ml of ethanol. To the solution was added 0.39 g of sodium borohydride with water-cooling. The resulting mixture was stirred for 1 hour at room temperature. To the reaction mixture was added 44 ml of water. The resulting crystals were collected by filtration and dried to obtain 4.19 g of 5-hydroxy-7-methyl-10,11-dihydro-5H-benzo[4,5]cyclohepta[1,2-b]pyridine. They were recrystallized from ethanol to obtain 3.90 g of colorless crystals having a melting point of 202°-203° C.

reactant | 7-methyl-10,11-dihydro-5H-benzo-[4,5]cyclohepta[1,2-b]pyridin-5-one | 4.46 g | CC=1C=CC2=C(C(C=3C(=NC=CC3)CC2)=O)C1 | C15H13NO
reactant | sodium borohydride | 0.39 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | water | 44 ml | O | H2O
solvent | ethanol | 22 ml | C(C)O | C2H6O
product | 5-hydroxy-7-methyl-10,11-dihydro-5H-benzo[4,5]cyclohepta[1,2-b]pyridine | 4.19 g | OC1C2=C(CCC3=NC=CC=C31)C=CC(=C2)C | C15H15NO
